US06413951B2
Add slowly a solution of 7α-methylandrost-5-en-3-on-17β-ol 17 acetate (L74a, 6.3 g, 18.9 mmol) in tetrahydrofuran (50 mL) to a solution of sodium borohydride (0.72 g, 18.9 mmol) in 95% ethanol (200 mL) cooled to −3° C. in a salt/ice bath with stirring. Stir at this temperature for 3 hours and decompose the excess reagent by cautious addition of acetic acid (10 mL). Remove the solvents and purify the resulting crude product by flash chromatography to give 7α-methylandrost-5-ene-3β,17β-diol 17 acetate (L75a) as a white solid. Similarly prepare the following analogs:

reactant | 7α-methylandrost-5-en-3-on-17β-ol 17 acetate | 18.9 mmol, 6.3 g | C(C)(=O)O[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1[C@@H](C=C3CC(CC[C@]3(C)[C@H]1CC2)=O)C | C22H32O3
reactant | sodium borohydride | 18.9 mmol, 0.72 g | [BH4-].[Na+]
reactant | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | ethanol | 200 mL | C(C)O | C2H6O
product | 7α-methylandrost-5-ene-3β,17β-diol 17 acetate | C(C)(=O)O[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1[C@@H](C=C3C[C@H](CC[C@]3(C)[C@H]1CC2)O)C | C22H34O3
